US04846882
To a stirred solution of 3.0 g (0.0097 mole) of of N-(4-chloro-2-fluoro-5-hydroxymethylphenyl)-3,4,5,6-tetrahydrophthalimide, prepared by the method of Example 4, and 6.4 g (0.0194 mole) of carbon tetrabromide in 30 ml of diethyl ether was added portionwise 5.1 g (0.0194 mole) of triphenylphosphine. This mixture was stirred overnight and was then filtered to remove the solid which had formed, and the solvent was evaporated under reduced pressure. The residue was passed through a column of silica gel. Appropriate fractions were combined, and the solvent was evaporated yielding 1.1 g of N-(4-chloro-2-fluoro-5-bromomethylphenyl)-3,4,5,6tetrahydrophthalimide as a white solid, m .p. 126°-128° C. The nmr and ir spectra were consistent with the proposed structure.

reactant | N-(4-chloro-2-fluoro-5-hydroxymethylphenyl)-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1CO)N1C(C2=C(C1=O)CCCC2)=O)F | C15H13ClFNO3
reactant | carbon tetrabromide | 0.0194 mole, 6.4 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.0194 mole, 5.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | N-(4-chloro-2-fluoro-5-bromomethylphenyl)-3,4,5,6tetrahydrophthalimide | 1.1 g | ClC1=CC(=C(C=C1CBr)N1C(C2=C(C1=O)CCCC2)=O)F | C15H12BrClFNO2
